US06552017B1
(+/−)-1,1,3-Trimethyl-2,3,6b,7,8,9,10,10a-octahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline
To a solution of ethyl 1,1,3-trimethyl-2,3, 6b,9,10,10a-hexahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-8(7H)-carboxylate (8 mg, 0.02 mmol) in n-butanol (5 mL) at rt was added KOH (50 mg, 0.89 mmol) and stirred at 120° C. for 20 hours. The solution was diluted with water (10 mL) and extracted with EtOAc (2×20 mL). The combined extracts were dried over magnesium sulfate and concentrated to afford the title compound (5 mg, 81%). MS [M+H]+258.

reactant | ethyl 1,1,3-trimethyl-2,3, 6b,9,10,10a-hexahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-8(7H)-carboxylate | 0.02 mmol, 8 mg | CC1(CN(C=2C=CC=C3C2N1C1C3CN(CC1)C(=O)OCC)C)C | C19H27N3O2
reactant | KOH | 0.89 mmol, 50 mg | [OH-].[K+]
solvent | n-butanol | 5 mL | C(CCC)O | C4H10O
solvent | water | 10 mL | O | H2O
product | (+/−)-1,1,3-Trimethyl-2,3,6b,7,8,9,10,10a-octahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline | 5 mg, 81% | CC1(CN(C=2C=CC=C3C2N1C1C3CNCC1)C)C | C16H23N3
